US07053082B1
5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h][2,3]benzodiazepine-8-carboxylic acid
To a solution of 3.40 g (20.0 millimoles) of silver(I)nitrate and 25 ml of water a solution of 1.60 g (4.0 millimoles) of sodium hydroxide and 25 ml of water is added. The mixture is stirred for 10 minutes, diluted with 50 ml of tetrahydrofurane and 3.51 g (10.0 millimoles) of 8-formyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine are added under cooling with icecold water. The reaction mixture is stirred at room temperature for 5 hours, filtered on a coal-bed and washed with cold water. The pH of the solution is adjusted to 2 with 6 N hydrochloric acid. After cooling the precipitated product is filtered and washed with 10 ml of cold water. Thus 2.61 g of the desired compound are obtained, yield 71%, mp.: 185–186° C.

reactant | water | 25 ml | O | H2O
reactant | sodium hydroxide | 4.0 millimoles, 1.60 g | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | 8-formyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 10.0 millimoles, 3.51 g | C(=O)C1=NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C18H13N3O5
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
catalyst | silver(I)nitrate | 20.0 millimoles, 3.40 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h][2,3]benzodiazepine-8-carboxylic acid | 2.61 g, yield 71% | CC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C(=O)O | C18H13N3O6
